US07700589B2
1-(1′-methyl-[4,4′]bipiperidinyl-1-yl)-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-2-(5,6,7,8-tetrahydro-naphthalen-2-ylmethyl)-butan-1,4-dione
Prepared analogously to Example 76e) from 4-oxo-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-2-(5,6,7,8-tetrahydro-naphthalen-2-ylmethyl)-butanoic acid and 1-methyl-[4,4′]bipiperidinyl.

reactant | 4-oxo-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-2-(5,6,7,8-tetrahydro-naphthalen-2-ylmethyl)-butanoic acid | O=C(CC(C(=O)O)CC1=CC=2CCCCC2C=C1)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C28H33N3O4
reactant | 1-methyl-[4,4′]bipiperidinyl | CN1CCC(CC1)C1CCNCC1 | C11H22N2
product | 1-(1′-methyl-[4,4′]bipiperidinyl-1-yl)-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-2-(5,6,7,8-tetrahydro-naphthalen-2-ylmethyl)-butan-1,4-dione | CN1CCC(CC1)C1CCN(CC1)C(C(CC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)CC1=CC=2CCCCC2C=C1)=O | C39H53N5O3
